US06531476B1
Working again according to a protocol identical to the one used in step 1.1 of Example 1, followed by treating, under the same conditions as those of step 1.2 of Example 1, 1 g of 1,4-dibenzyl-2-phenoxycarbonyloxymethylpiperazine with 10 ml de piperidine, 0.68 g of 1,4-dibenzyl-2-(1′-piperidinocarbonyloxymethyl)piperazine is obtained in the form of a viscous product. Yield: 66.5%. Rf=0.09 (70/30 v/v ether/petroleum ether).

reactant | 1,4-dibenzyl-2-phenoxycarbonyloxymethylpiperazine | 1 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)COC(=O)OC1=CC=CC=C1 | C26H28N2O3
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1,4-dibenzyl-2-(1′-piperidinocarbonyloxymethyl)piperazine | 0.68 g, Yield: 66.5% | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)COC(=O)N1CCCCC1 | C25H33N3O2
